US06069156
A solution of methyl 4-(1-dimethylaminomethylene-2-oxopentyl)-3-nitrobenzoate (172 mg) in dioxane (9 ml) was refluxed for 4 days. The resulting mixture was evaporated in vacuo, and the residue was purified by thin layer chromatography with a mixture of hexane and ethyl acetate (2:1) to give methyl 3-nitro-4-(2-oxopentyl)benzoate (127 mg).

reactant | methyl 4-(1-dimethylaminomethylene-2-oxopentyl)-3-nitrobenzoate | 172 mg | CN(C)C=C(C(CCC)=O)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C16H20N2O5
solvent | dioxane | 9 ml | O1CCOCC1 | C4H8O2
product | methyl 3-nitro-4-(2-oxopentyl)benzoate | 127 mg | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1CC(CCC)=O | C13H15NO5
